US07601846B2
2-p-Tolyl-imidazo[2,1-b]benzothiazol-7-ylamine (7)
To a suspension of 7-Nitro-2-p-tolyl-imidazo[2,1-b]benzothiazole hydrobromide salt (128 mg, 0.328 mmol) in water at 80° C. were added 4 portions (10 eq.) of sodium dithionite over 30 minutes whereupon the suspension become clear and decolorized to give 7 in 22% yield: mp>210° C. (dec.); 1H-NMR (DMSO-d6) 2.32 (s, 3H), 6.80 (dd, 1H), 7.13 (d, 1H), 7.23 (d, 2H), 7.65 (d, 1H), 7.72 (d, 2H), 8.53 (s, 1H); HR-MS (EI) m/z 279.0821 (M+); Anal. calculated for C16H13N3S. 7/3 HBr: C, 41.05; H, 3.30; N, 8.98; found; C, 41.81; H, 2.86; N, 6.10.

reactant | 7-Nitro-2-p-tolyl-imidazo[2,1-b]benzothiazole hydrobromide salt | 0.328 mmol, 128 mg | Br.[N+](=O)([O-])C1=CC2=C(N3C(S2)=NC(=C3)C3=CC=C(C=C3)C)C=C1
reactant | sodium dithionite | 10 eq. | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | HBr | Br | BrH
solvent | water | O | H2O
product | 2-p-Tolyl-imidazo[2,1-b]benzothiazol-7-ylamine | 22% yield | C1(=CC=C(C=C1)C=1N=C2SC3=C(N2C1)C=CC(=C3)N)C | C16H13N3S
